US08026260B2
To a solution of tert-butyl {3-[(4-{1,1-difluoro-2-[2-(2-methoxybenzoyl)hydrazino]-2-oxoethyl}benzoyl)amino]-1-phenyl-1H-pyrazol-4-yl}carbamate (0.05 g, 0.08 mmol) in THF (2 mL) was added Burgess reagent (38 mg, 0.16 mmol) and the reaction was sealed and heated to 100° C. for 10 minutes under microwave irradiation. The reaction was evaporated to dryness and purified by reverse phase chromatography (5/95 acetonitrile/water to 95/5 acetonitrile/water) to give tert-butyl {3-[(4-{difluoro[5-(2-methoxyphenyl)-1,3,4-oxadiazol-2-yl]methyl}benzoyl)amino]-1-phenyl-1H-pyrazol-4-yl}carbamate as a white solid. ESIMS calcd 603.2 (M++H), found 603.2 (M++H).

reactant | tert-butyl {3-[(4-{1,1-difluoro-2-[2-(2-methoxybenzoyl)hydrazino]-2-oxoethyl}benzoyl)amino]-1-phenyl-1H-pyrazol-4-yl}carbamate | 0.08 mmol, 0.05 g | FC(C(=O)NNC(C1=C(C=CC=C1)OC)=O)(F)C1=CC=C(C(=O)NC2=NN(C=C2NC(OC(C)(C)C)=O)C2=CC=CC=C2)C=C1 | C31H30F2N6O6
reactant | Burgess reagent | 0.16 mmol, 38 mg | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | tert-butyl {3-[(4-{difluoro[5-(2-methoxyphenyl)-1,3,4-oxadiazol-2-yl]methyl}benzoyl)amino]-1-phenyl-1H-pyrazol-4-yl}carbamate | FC(C1=CC=C(C(=O)NC2=NN(C=C2NC(OC(C)(C)C)=O)C2=CC=CC=C2)C=C1)(C=1OC(=NN1)C1=C(C=CC=C1)OC)F | C31H28F2N6O5
